US08044236B2
(1) Preparation of 2-benzyloxy-5-bromophenylacetic acid
A mixture of 2-benzyloxyphenylacetic acid (242 mg, 11.0 mmol), N-bromosuccinimide (178 mg, 1.9 mmol) and dichloromethane (4 ml) was stirred overnight at room temperature under argon atmosphere. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (280 mg, 87.2%) as a white solid.

reactant | 2-benzyloxyphenylacetic acid | 11.0 mmol, 242 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)O | C15H14O3
reactant | N-bromosuccinimide | 1.9 mmol, 178 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxy-5-bromophenylacetic acid | 280 mg, 87.2% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CC(=O)O | C15H13BrO3
